*voltage divider netlist
.options savecurrents

*.include ../mat/ngspice_circuit_3.txt
*.include ../doc/ngspice_circuit_3.txt

Vs V1 0 SIN(5.24204797361 1 1000 )
R1 V2 V1 1.01949191994e+03
R2 V3 V2 2.05054429461e+03
R3 V2 V5 3.09286027724e+03
R4 0 V5 4.12838973576e+03
R5 V6 V5 3.06635427647e+03
R6 V9 V7 2.01254230153e+03
R7 V7 V8 1.00502981701e+03

VVc 0 V9 0V
HVc V5 V8 VVc 8.12820254987e+03

GIb V6 V3 V2 V5 7.23185131759e-03
C1 V6 V8 1.01905568201e-06 ic= 8.76366948753e+00


*.ic V6 = 8.76366948753e+00 V8 = 0
.control

ic V6 = 8.76366948753e+00
op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
echo  "op_END"

echo "********************************************"
echo  "Given Values"
echo "********************************************"

echo "op_TAB1"
echo "R1 = 1.01949191994 KΩ" 
echo "R2 = 2.05054429461 KΩ"
echo "R3 = 3.09286027724 KΩ"
echo "R4 = 4.12838973576 KΩ"
echo "R5 = 3.06635427647 KΩ"
echo "R6 = 2.01254230153 KΩ"
echo "R7 = 1.00502981701 KΩ"
echo "Va = 5.24204797361 V"
echo "C = 1.01905568201 F"
echo "Kb = 7.23185131759 mS"
echo "Kc = 8.12820254987 KΩ"
echo "op_END1"



echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 20e-3 uic

set hcopydevtype=postscript
set hcopypscolor=1


hardcopy trans.ps v(V6) 


quit

.endc 


*R1 = 1.01949191994 
*R2 = 2.05054429461 
*R3 = 3.09286027724 
*R4 = 4.12838973576 
*R5 = 3.06635427647 
*R6 = 2.01254230153 
*R7 = 1.00502981701 
*Vs = 5.24204797361 
*C = 1.01905568201 
*Kb = 7.23185131759 
*Kc = 8.12820254987

.end



